US07687627B2
S)-N-{3-[4-(4-Fluoro-4-(N,N-dimethylamino)-methylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[4-(4-(N,N-dimethylamino)-methyl-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.22 mmol) with DAST (1.53 mmol) in dichloromethane (10 ml) at a temperature 0° C. for one hour and by purifying the compound by silica gel column chromatography in 62% yield.

reactant | (S)-N-{3-[4-(4-(N,N-dimethylamino)-methyl-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 1.22 mmol | CN(C)C1(CC(N(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)C)O | C20H29FN4O4
reactant | DAST | 1.53 mmol | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-{3-[4-(4-Fluoro-4-(N,N-dimethylamino)-methylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 62% yield | FC1(CC(N(CC1)C1=C(C=C(C=C1)N1C(OC(C1)CNC(C)=O)=O)F)C)N(C)C | C20H28F2N4O3
